US07754728B2
2-(2-Acetoxyethylamino)-8-hydroxy-9-{(6-methyl-3-pyridyl)methyl}adenine
To 8-hydroxy-2-(2-hydroxyethylamino)-9-{(6-methyl-3-pyridyl)methyl}adenine (100 mg, 0.32 mmol) prepared by Comparative example 10 in pyridine (1 ml) was added under ice cooling acetic anhydride (0.033 ml, 0.35 mmol), and the mixture was stirred for 3 hours. To the reaction mixture was added sodium hydrogen carbonate solution, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by preparative thin-layer chromatography to give the captioned compound (14 mg, 0.039 mmol, yield: 12%) as a white solid.

reactant | 8-hydroxy-2-(2-hydroxyethylamino)-9-{(6-methyl-3-pyridyl)methyl}adenine | 0.32 mmol, 100 mg | OC=1N(C2=NC(=NC(=C2N1)N)NCCO)CC=1C=NC(=CC1)C | C14H17N7O2
reactant | acetic anhydride | 0.35 mmol, 0.033 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Acetoxyethylamino)-8-hydroxy-9-{(6-methyl-3-pyridyl)methyl}adenine | 0.039 mmol, 14 mg, yield: 12% | C(C)(=O)OCCNC1=NC(=C2N=C(N(C2=N1)CC=1C=NC(=CC1)C)O)N | C16H19N7O3
